US07265120B2
A mixture of 2-isopropyl-6-(2-oxo-2-phenylethyl)-3(2H)-pyridazinone (100 g) and sulfurylchloride (32.9 ml) in CH2Cl2 (200 ml) was refluxed with stirring for 5 hours. Water and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain 6-(1-chloro-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone (100 g) as white powder.

reactant | 2-isopropyl-6-(2-oxo-2-phenylethyl)-3(2H)-pyridazinone | 100 g | C(C)(C)N1N=C(C=CC1=O)CC(C1=CC=CC=C1)=O | C15H16N2O2
reactant | sulfurylchloride | 32.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-(1-chloro-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone | 100 g | ClC(C(C1=CC=CC=C1)=O)C=1C=CC(N(N1)C(C)C)=O | C15H15ClN2O2
